US06077859
3-Cyano-4-(1-hydroxycyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
3-Cyano-1-(2,2-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (500 mg, 1.16 mmol, WO9707102) was dissolved in THF (10 ml) in a dry, nitrogen-flushed flask and cooled to -78° C. n-Butyllithium 0.46 ml, 2.5M in hexanes) was added dropwise over a period of 30 min, keeping the internal temperature at ca. -72° C. The reaction mixture was stirred at -78° C. for 20 min. then cyclobutanone (0.10 ml, 1.28 mmol), dissolved in THF (4 ml), was added dropwise and the mixture was stirred for 1 hr at -78° C. before warming to -20° C. After 2 hr, the mixture was warmed to room temperature and stirred overnight. The reaction mixture was poured into aqueous ammonium chloride (20 ml) and extracted with diethyl ether (2×20 ml). The combined organics were washed (brine), dried (Na2SO4), filtered and the solvents removed in vacuo to leave a yellow oil. This was purified by silica chromatography (eluting with a solvent gradient of DCM to 3% methanol/DCM) to yield 256 mg as a clear gum.

reactant | 3-Cyano-1-(2,2-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 1.16 mmol, 500 mg | C(#N)C1=NN(C=C1I)C1C(C=C(C=C1)C(F)(F)F)(Cl)Cl | C11H5Cl2F3IN3
reactant | cyclobutanone | 1.28 mmol, 0.10 ml | C1(CCC1)=O | C4H6O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 3-Cyano-4-(1-hydroxycyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | C(#N)C1=NN(C=C1C1(CCC1)O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H10Cl2F3N3O
